US08309580B2
(3) 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane
To a solution of 2-(2-methylthiophen-3-yl)-1,3-dioxolane (2.30 g) synthesized above in acetonitrile (25 mL) was added N-bromosuccinimide (2.65 g), and the mixture was stirred at room temperature for 7 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to give the title compound (2.15 g, 64%) as a pale-yellow oil.

reactant | 2-(2-methylthiophen-3-yl)-1,3-dioxolane | 2.30 g | CC=1SC=CC1C1OCCO1 | C8H10O2S
reactant | N-bromosuccinimide | 2.65 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane | 2.15 g, 64% | BrC1=CC(=C(S1)C)C1OCCO1 | C8H9BrO2S
